US07230011B2
Benzenesulfonic Acid 9-(1-methylpiperidin-4-yl)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-7-yl Ester Hydrochloride
By a method similar to Example 31, using 9-(1-methylpiperidin-4-yl)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-7-ol (135 mg, 0.5 mmol), NaOH (3.25 mL, 0.65 mmol, 0.2 N), benzenesulfonyl chloride (99 mg, 0.564 mmol), and THF (1.5 mL) gave a crude residue which was purified by PCTLC (silica gel GF rotor; 95:5 CHCl3:2M NH3 in MeOH) and the hydrochloride was formed in EtOAc affording 196 mg (88%) of the title compound as an off-white powder: mp=202-204° C.; MS (ES+): m/e 411.0 (M+1); Calculated for C23H26N2O3S.HCl: C, 61.80; H, 6.09; N, 6.27. Found: C, 61.49; H, 6.10; N, 6.27.

reactant | 9-(1-methylpiperidin-4-yl)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-7-ol | 0.5 mmol, 135 mg | CN1CCC(CC1)C1=C2N(C=3C=CC(=CC13)O)CCC2 | C17H22N2O
reactant | NaOH | 0.65 mmol, 0.2 N, 3.25 mL | [OH-].[Na+]
reactant | benzenesulfonyl chloride | 0.564 mmol, 99 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | Benzenesulfonic Acid 9-(1-methylpiperidin-4-yl)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-7-yl Ester Hydrochloride | Cl.CN1CCC(CC1)C1=C2N(C=3C=CC(=CC13)OS(=O)(=O)C1=CC=CC=C1)CCC2 | InChI=1S/C23H26N2O3S.ClH/c1-24-14-11-17(12-15-24)23-20-16-18(9-10-21(20)25-13-5-8-22(23)25)28-29(26,27)19-6-3-2-4-7-19;/h2-4,6-7,9-10,16-17H,5,8,11-15H2,1H3;1H
